US08293768B2
Synthesis of 2-(3-(2-cyclopropylethyl)-2-oxoimidazolidin-1-yl)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide
Following the procedure as describe in Example 9, making variations as required to replace 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid with 2-(3-(2-cyclopropylethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid to react with 3-(aminomethyl)pyridine, the title compound was obtained as a white powder in 40% yield: mp 146-147° C. (ethyl acetate/hexanes); 1H NMR (300 MHz, CDCl3) d 8.54 (s, 1H), 8.43 (d, J=3.0 Hz, 1H), 7.63 (d, J=7.8 Hz, 1H), 7.23-7.17 (m, 1H), 6.55 (t, J=5.7 Hz, 1H), 4.52 (d, J=5.7 Hz, 2H), 4.06-3.99 (m, 2H), 3.57-3.52 (m, 2H), 3.32 (t, J=7.2 Hz, 2H), 2.54 (s, 3H), 1.44-1.37 (m, 2H), 0.65-0.54 (m, 1H), 0.43-0.35 (m, 2H), 0.06-0.01 (m, 2H); 13C NMR (75 MHz, CDCl3) d 162.7, 157.5, 155.3, 153.5, 149.0, 148.6, 135.7, 134.1, 123.6, 116.7, 44.0, 42.4, 42.0, 41.2, 32.4, 17.2, 8.4, 4.3; MS (ES+) m/z 386.3 (M+1)

reactant | 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | C(C1=CC=CC=C1)N1C(N(CC1)C=1SC(=C(N1)C)C(=O)O)=O | C15H15N3O3S
reactant | 2-(3-(2-cyclopropylethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | C1(CC1)CCN1C(N(CC1)C=1SC(=C(N1)C)C(=O)O)=O | C13H17N3O3S
reactant | 3-(aminomethyl)pyridine | NCC=1C=NC=CC1 | C6H8N2
product | 2-(3-(2-cyclopropylethyl)-2-oxoimidazolidin-1-yl)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide | 40% yield | C1(CC1)CCN1C(N(CC1)C=1SC(=C(N1)C)C(=O)NCC=1C=NC=CC1)=O | C19H23N5O2S
